US08207172B2
Step 9. Preparation of N-(3-chloro-4-morpholin-4-ylphenyl)-2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To a suspension of 6-chloro-2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazole (50 mg, 0.13 mmol) and 3-chloro-4-morpholinoaniline (82 mg, 0.39 mmol) in isopropanol (3 mL) was added HCl in dioxane (4M, 0.26 mL, 1.03 mmol). The reaction mixture was sealed in a microwave reaction vessel and it was placed in a microwave instrument at 160° C. for 10 min. After it was cooled to room temperature, solvents were evaporated and the residue was dissolved in water/DMF and purified by prep. HPLC. After drying, the TFA salt was neutralized with aq saturated NaHCO3 and extracted with a mixture of CHCl3:isopropanol (3:1). The organic phase was dried over Na2SO4 and concentrated to dryness. The desired product was obtained as a pale solid (40 mg, 55%). 1H-NMR (CD2Cl2) δ 8.43 (s, 1H), 7.84 (d, 1H), 7.53 (m, 2H), 7.08 (m, 2H), 4.20 (t, 2H), 3.86 (m, 4H), 3.37 (t, 2H), 3.11 (t, 2H), 3.04 (m, 4H), 2.80 (t, 2H), 2.53 (m, 4H), 2.43 (m, 4H), 2.26 (s, 3H); LCMS RT=2.29 min; [M+H]+=565.4.

reactant | 6-chloro-2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazole | 0.13 mmol, 50 mg | ClC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)CCN1CCN(CC1)C)S2 | C18H21ClN6S
reactant | 3-chloro-4-morpholinoaniline | 0.39 mmol, 82 mg | ClC=1C=C(N)C=CC1N1CCOCC1 | C10H13ClN2O
reactant | HCl | Cl | ClH
reactant | dioxane | 1.03 mmol, 4M, 0.26 mL | O1CCOCC1 | C4H8O2
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | N-(3-chloro-4-morpholin-4-ylphenyl)-2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | ClC=1C=C(C=CC1N1CCOCC1)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)CCN1CCN(CC1)C)S2 | C28H33ClN8OS
